US06521643B1
To a solution of N,N′-bis(tert-butoxycarbonyl)-N″-(2-(1,3-dioxolan-2-yl)-5-(4-methoxylpyridin-2-yl)phenyl)guanidine (200 mg) in ethanol (2 ml) was added hydrochloric acid (36%, 1 ml), and the mixture was stirred for 18 hours. The solvent was evaporated under reduced pressure. To the residue was added 5% ethanol in ethyl acetate (50 ml), and the precipitate was collected by filtration and dried under reduced pressure to give 2-amino-7-(4-methoxypyridin-2-yl)quinazoline dihydrochloride (89 mg).

reactant | N,N′-bis(tert-butoxycarbonyl)-N″-(2-(1,3-dioxolan-2-yl)-5-(4-methoxylpyridin-2-yl)phenyl)guanidine | 200 mg | C(C)(C)(C)OC(=O)NC(=NC1=C(C=CC(=C1)C1=NC=CC(=C1)OC)C1OCCO1)NC(=O)OC(C)(C)C | C26H34N4O7
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-amino-7-(4-methoxypyridin-2-yl)quinazoline dihydrochloride | 89 mg | Cl.Cl.NC1=NC2=CC(=CC=C2C=N1)C1=NC=CC(=C1)OC | InChI=1S/C14H12N4O.2ClH/c1-19-11-4-5-16-12(7-11)9-2-3-10-8-17-14(15)18-13(10)6-9;;/h2-8H,1H3,(H2,15,17,18);2*1H
